US04161594
1,3,-Di(β-hydroxy-n-propyl)-5,5-dimethylhydantoin
A mixture of 217 g of 5,5-dimethylhydantoin (1.695 mols) 3.61 g of lithium chloride (5 mol per cent) and 560 ml of dimethylformamide is stirred at 50° C. 230 g. of propene oxide (propylene oxide) (3.955 mols) are added dropwise to the clear solution over the course of 4 hours, at 50°-55° C. The reaction is slightly exothermic. After the dropwise addition, the temperature is slowly raised to 90° C. After 5 hours at 90° C. the dimethylformamide is distilled off in a waterpump vacuum and thereafter the product is dried to constant weight at 100° C. and 0.1 mm Hg. 415 g of a pale yellow highly viscous oil (100 % of theory) are obtained. The crude product is distilled at 0.1 to 0.2 mm Hg and 170°-172° C.: 386.0 yield of pure material (93.5 % of theory). On cooling the 1,3-di(β -hydroxy-n-propyl)-5,5-dimethylhydantoin solidifies to give white crystals of melting point 65°-67° C. The elementary analysis shows 11.81 % N (calculated, 11.47 % N), and the molecular weight was determined by vapour pressure osmometry to be 247 (theory 244). The infrared spectrum shows the absence of N--H-- amide frequencies at 3.1 to 3.2 μ and the presence of C--OH frequencies at 2.90 μ.

reactant | 5,5-dimethylhydantoin | 1.695 mols, 217 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | lithium chloride | 5 mol | [Cl-].[Li+]
reactant | propene oxide | 3.955 mols | C1C(C)O1 | C3H6O
solvent | dimethylformamide | 560 ml | CN(C=O)C | C3H7NO
product | 1,3,-Di(β-hydroxy-n-propyl)-5,5-dimethylhydantoin | OC(CN1C(=O)N(C(=O)C1(C)C)CC(C)O)C | C11H20N2O4
